### PR TITLE
[Merged by Bors] - feat(RingTheory/PowerSeries/*): various small results

### PR DESCRIPTION
**Pull request by acmepjz**
- `Mathlib/RingTheory/PowerSeries/CoeffMulMem.lean`: some results on the coefficients of multiplication of two power series
- `Mathlib/RingTheory/PowerSeries/Trunc.lean`: add two results `eq_shift_mul_X_pow_add_trunc` and `eq_X_pow_mul_shift_add_trunc` generalizing `eq_shift_mul_X_add_const` and `eq_X_mul_shift_add_const`
- `Mathlib/Data/ENat/Basic.lean`: add `ENat.lift_eq_toNat` which seems convenient (?)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

These results are used in #24584.

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/CoeffMulMem.lean [hunk 1]
```diff
@@ -0,0 +1,54 @@
+/-
+Copyright (c) 2025 Jz Pan. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jz Pan
+-/
+import Mathlib.RingTheory.Ideal.Operations
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/CoeffMulMem.lean:6]: Can you add some docstring?

File: Mathlib/RingTheory/PowerSeries/CoeffMulMem.lean [hunk 2]
```diff
@@ -0,0 +1,54 @@
...
+# Some results on the coefficients of multiplication of two power series
+
+-/
+
+namespace PowerSeries
+
+variable {A : Type*} [Semiring A] {I J : Ideal A}
+
+theorem coeff_mul_mem_ideal_mul_ideal_of_coeff_mem_ideal
+    (f g : A⟦X⟧) (n : ℕ) (hf : ∀ i ≤ n, coeff A i f ∈ I)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/CoeffMulMem.lean:21]: It depends on how you need the results, but `f` and `g` can be implicit.

File: Mathlib/RingTheory/PowerSeries/CoeffMulMem.lean [hunk 3]
```diff
@@ -0,0 +1,54 @@
...
+    (hg : ∀ i ≤ n, coeff A i g ∈ J) : ∀ i ≤ n, coeff A i (f * g) ∈ I * J := fun i hi ↦ by
+  rw [coeff_mul]
+  exact Ideal.sum_mem _ fun p hp ↦ Ideal.mul_mem_mul
+    (hf _ ((Finset.antidiagonal.fst_le hp).trans hi))
+    (hg _ ((Finset.antidiagonal.snd_le hp).trans hi))
+
+theorem coeff_mul_mem_ideal_mul_ideal_of_coeff_mem_ideal'
+    (f g : A⟦X⟧) (hf : ∀ i, coeff A i f ∈ I)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/CoeffMulMem.lean:29]: Can you use a `variable (f g...` line?

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/RingTheory/PowerSeries/CoeffMulMem.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/RingTheory/PowerSeries/CoeffMulMem.lean:6]: Done.

File: Mathlib/Data/ENat/Basic.lean [hunk 4]
```diff
@@ -168,6 +168,11 @@ theorem toNat_top : toNat ⊤ = 0 :=
 
 @[simp] theorem toNat_eq_zero : toNat n = 0 ↔ n = 0 ∨ n = ⊤ := WithTop.untopD_eq_self_iff
 
+theorem lift_eq_toNat {x : ℕ∞} (hx : x < ⊤) : x.lift hx = x.toNat := by
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/Data/ENat/Basic.lean:171]: Done.

File: Mathlib/RingTheory/PowerSeries/CoeffMulMem.lean [hunk 5]
```diff
@@ -0,0 +1,72 @@
...
+  in ideal `I`, then for all `i ≤ n` (resp. for all `i`), the `i`-th coefficients of `f * g` are
+  in `I`.
+
+-/
+
+namespace PowerSeries
+
+variable {A : Type*} [Semiring A] {I J : Ideal A} {f g : A⟦X⟧} (n : ℕ)
+
+theorem coeff_mul_mem_ideal_mul_ideal_of_coeff_mem_ideal (hf : ∀ i ≤ n, coeff A i f ∈ I)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/CoeffMulMem.lean:40]: Sorry for changing idea, but I see you have to use `:=` quite frequently. Feel free to make the variable explicit.

Comment (acmepjz) [reply Mathlib/RingTheory/PowerSeries/CoeffMulMem.lean:40]: No worries. In actual application it's OK to make `f` and `g` implicit.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
